US05451594
Step 1: 4-Bromo-4,4-difluorobutanoic acid
To a stirred solution of acrylic acid (1.44 g) and acetonitrile (80 cm3) was added sodium dithionite (4.18 g), sodium bicarbonate (2.01 g), water (20 cm3) and finally dibromodifluoromethane (5 cm3). The biphasic mixture was stirred at the ambient temperature with the inorganic salts gradually dissolving. Gc analysis after 4 hrs indicated complete consumption of acrylic acid. The aqueous phase was saturated with solid sodium chloride. The organic phase was separated, dried (MgSO4), filtered and evaporated under reduced pressure to give a pale yellow oil with a small amount of a white solid. This mixture was taken up in ethyl acetate, filtered and evaporated under reduced pressure to give a pale yellow oil (2.54 g). 1H NMR (DMSO): δ2.65(2H,m); 2.45(2H, t).

reactant | acrylic acid | 1.44 g | C(C=C)(=O)O | C3H4O2
reactant | sodium dithionite | 4.18 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 2.01 g | C([O-])(O)=O.[Na+]
reactant | dibromodifluoromethane | 5 cm3 | BrC(F)(F)Br | CBr2F2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 cm3 | O | H2O
solvent | acetonitrile | 80 cm3 | C(C)#N | C2H3N
product | 4-Bromo-4,4-difluorobutanoic acid | 2.54 g | BrC(CCC(=O)O)(F)F | C4H5BrF2O2
